US07049307B2
2-(2,2-dimethoxyethyl)-6-nitro-2H-indazole
To a stirred suspension of 6-nitroindazole (10 g, 61 mmol) and K2CO3 (9.31 g, 67.5 mmol) in N,N-dimethylformamide (60 mL) at room temperature was added bromoacetaldehyde dimethylacetal (8.0 mL, 67.5 mmol) and the reaction was heated to 55 C for 18 ours. The mixture was allowed to cool and was diluted with diethyl ether (30 mL) and H2O (60 mL). The layers were separated and the aqueous was extracted with additional diethyl ether (3×30 mL). The combined organic layers were dried with anhydrous Na2SO4, filtered and concentrated under reduced pressure to an orange oil. The residue was purified by MPLC (SiO2, 9:1 Hx:Ethyl acetateto 4:1 Hx:EtoAc) to yield the titled product as a yellow solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.31 (m, 6 H), 4.67 (d, J=5.42 Hz, 2 H), 4.91 (t, J=5.42 Hz, 1H), 7.82 (m1 H), 7.99 (m, 1 H) and 8.63 (s, 2 H); MS (ESI) 252 (M+H)+.

reactant | 6-nitroindazole | 61 mmol, 10 g | [N+](=O)([O-])C1=CC=C2C=NNC2=C1 | C7H5N3O2
reactant | K2CO3 | 67.5 mmol, 9.31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoacetaldehyde dimethylacetal | 67.5 mmol, 8.0 mL | COC(CBr)OC | C4H9BrO2
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | H2O | 60 mL | O | H2O
product | 2-(2,2-dimethoxyethyl)-6-nitro-2H-indazole | COC(CN1N=C2C=C(C=CC2=C1)[N+](=O)[O-])OC | C11H13N3O4
